US07601729B2
1,1-Dimethylethyl 2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate
Potassium phthalimide (0.33 g, 2.2 mmol) was added in one portion to a stirred solution of 1,1-dimethylethyl 5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)-2-{2-[(methylsulfonyl)oxy]ethyl}pentanoate (1.15 g, 1.86 mmol) in dimethylformamide (6 mL) at room temperature under nitrogen. The resulting solution was heated at 80° C. for 1 h 45 min then cooled to room temperature. The volatiles were evaporated and the residue partitioned between dichloromethane (50 mL) and water (50 mL). The layers were separated and the organic phase evaporated to dryness. The residue was chromatographed on silica gel (50% ethyl acetate: cyclohexane) to give the title compound (0.26 g, 21%) as a yellow oil which was a mixture of diastereoisomers. LC/MS: 4.29 min; z/e 687, calcd (M+18) 687. 1H NMR (400 MHz: CDCl3): 7.85 (2H), 7.70 (2H), 7.55-7.20(4H), 6.90-6.75 (4H), 4.55-4.30 (2H), 3.80 (3H), 3.75 (1H), 3.65 (2H), 2.80-2.45 (3H), 2.10-1.50 (4H), 1.40 (9H).

reactant | Potassium phthalimide | 2.2 mmol, 0.33 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,1-dimethylethyl 5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)-2-{2-[(methylsulfonyl)oxy]ethyl}pentanoate | 1.86 mmol, 1.15 g | IC1=CC=C(C=C1)CCC(C(C(=O)OC(C)(C)C)CCOS(=O)(=O)C)OCC1=CC=C(C=C1)OC | C26H35IO7S
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate | 0.26 g, 21% | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)OC(C)(C)C)C(CCC1=CC=C(C=C1)I)OCC1=CC=C(C=C1)OC | C33H36INO6
